US05342846
1-Cyclopropyl-6,8-difluoro-7-[3-(4,5-dimethyl-1,2,3-triazol-1-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline -3-carboxylic acid
1-Cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (100 mg, 0.36 mmol) was reacted with 3-(4 , 5-dimethyl-1,2,3-triazol-1-yl)pyrrolidine hydrochloride (182 mg, 0.9 mmol) in 8 ml of dry pyridine in the presence of 137 mg (0.9 mmol) of DBU at 115° C. for five days. The small amount of the solid was filtered off and the supernatant was evaporated to dryness. To the residue, water and a few drops of acetonitrile were added. The solid was collected to afford after drying 125 mg (81%) of the desired product as a gray solid. m.p. 230-232 ° C. (dec). 1H NMR (CDCl3) δ: 8.74 (s, 1H), 7.84 (d, J=13.2Hz, 1H), 5.07-4.8 (m, 1H), 4.4-3.85 (m, 5H), 2.8-2.14 (m, 8H, singlet at 2.29, 6H), 1.4-1.0 (m, 4H). Anal. calcd. for C21H12F2N5O3.1/2 H2O: C, 57.52; H, 4.83; N, 15.97. Found: C, 57.68; H, 4.81; N, 15.68.

reactant | 1-Cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.36 mmol, 100 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 3-(4 , 5-dimethyl-1,2,3-triazol-1-yl)pyrrolidine hydrochloride | 0.9 mmol, 182 mg | Cl.CC=1N=NN(C1C)C1CNCC1
reactant | DBU | 0.9 mmol, 137 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 1-Cyclopropyl-6,8-difluoro-7-[3-(4,5-dimethyl-1,2,3-triazol-1-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline -3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(CC1)N1N=NC(=C1C)C)F)=O)C(=O)O | C21H21F2N5O3
